US06251926B1
Carbonyldiimidazole (7.25 g) was added to a solution of 2-pyridinecarboxylic acid (5.00 g) in tetrahydrofuran (200 ml) at 0° C. After stirring at room temperature for 2 hours, the mixture was added dropwise to a solution of lithiated tert-butyl acetate prepared from tert-butyl acetate (17.5 ml) and lithium diisopropylamide (2N tetrahydrofuran solution, 65 ml) at −78° C. over 1 hour. After stirring for 15 minutes, 1N hydrochloric acid (250 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain an oil from an ethyl acetate-hexane(1:4, v/v)-eluted fraction. This was dissolved in tetrahydrofuran (100 ml), and sodium hydride (60% in oil, 1.06 g) was added at 0° C., and then the reaction mixture was stirred for 10 minutes. Further ethyl bromoacetate (2.00 ml) was added, stirred at 0° C. for 8 hours, 0.1N hydrochloric acid (300 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain an oil from an ethyl acetate-hexane (1:5, v/v)-eluted fraction. This was dissolved in toluene (200 ml), and p-toluenesulfonic acid (2.00 g) was added, and then the reaction mixture was stirred at 80° C. for 20 hours. An aqueous saturated solution of sodium bicarbonate was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl 4-oxo-4-(2-pyridyl)butyrate (1.56 g, yield 19%) from an ethyl acetate-hexane (1:2, v/v)-eluted fraction as a colorless oil.

reactant | Carbonyldiimidazole | 7.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-pyridinecarboxylic acid | 5.00 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | tert-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | tert-butyl acetate | 17.5 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium diisopropylamide | 2N, 65 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | 1N, 250 ml | Cl | ClH
reactant | sodium hydride | 1.06 g | [H-].[Na+]
reactant | ethyl bromoacetate | 2.00 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | 0.1N, 300 ml | Cl | ClH
reactant | p-toluenesulfonic acid | 2.00 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl 4-oxo-4-(2-pyridyl)butyrate | 1.56 g, yield 19% | O=C(CCC(=O)OCC)C1=NC=CC=C1 | C11H13NO3
